US09388176B2
3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-N-(3-isopropylphenyl)benzamide
A mixture of 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzoic acid (162 mg, 0.60 mmol), N,N-diisopropylethylamine (0.523 mL, 3.0 mmol), and HBTU (250 mg, 0.66 mmol) in 6.0 mL DMF was stirred at room temperature for 3 minutes, briefly warmed to approx. 50° C. to dissolve solids, stirred an additional 10 minutes at room temperature, then 3-isopropylaniline (0.127 mL, 0.90 mmol) added and the reaction heated at 65° C. After 2 hours the mixture was partitioned between EtOAc and aqueous Na2CO3 solution, the EtOAc layer washed with H2O, brine, dried with anhydrous Na2SO4 and rotary evaporated to a solid. The solid was chromatographed eluting with EtOAc/MeOH. The resulting solid was subjected to an EtOAc/NaHCO3 work-up to remove any silica gel impurity and then recrystallized from EtOAc to give the title compound as a pale yellow-beige solid (86 mg, 37%). 1H NMR (DMSO-d6) δ: 10.09 (s, 1H), 8.13 (s, 1H), 7.64-7.66 (m, 1H), 7.58-7.63 (m, 1H), 7.50-7.53 (m, 1H), 7.32-7.40 (m, 2H), 7.18-7.29 (m, 2H), 6.96-7.01 (m, 1H), 6.41 (s, 2H), 4.29 (s, 2H), 3.65 (t, J=6.0 Hz, 2H), 2.88 (spt, J=7.0 Hz, 1H), 2.77 (t, J=5.9 Hz, 2H), 1.22 (d, J=7.0 Hz, 6H).

reactant | 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzoic acid | 0.60 mmol, 162 mg | NC=1N=CC2=C(N1)CCN(C2)C=2C=C(C(=O)O)C=CC2 | C14H14N4O2
reactant | N,N-diisopropylethylamine | 3.0 mmol, 0.523 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HBTU | 0.66 mmol, 250 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-isopropylaniline | 0.90 mmol, 0.127 mL | C(C)(C)C=1C=C(N)C=CC1 | C9H13N
solvent | DMF | 6.0 mL | CN(C)C=O | C3H7NO
product | 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-N-(3-isopropylphenyl)benzamide | 86 mg, 37% | NC=1N=CC2=C(N1)CCN(C2)C=2C=C(C(=O)NC1=CC(=CC=C1)C(C)C)C=CC2 | C23H25N5O
